US06884868B1
To a solution of 4-hydroxy-4-phenylpiperidine-1-carboxylic acid tert-butyl ester (7.1 g) in N,N-dimethylformamide (71 ml) was added 60% sodium hydride in mineral oil (1.13 g) under ice-cooling, and stirred for 1 hour at ambient temperature. The suspension was then stirred for 1.5 hours at 60° C. To the reaction mixture was added iodomethane (32 ml) at 40° C., and stirred for 30 minutes at 45° C. Water and ethyl acetate were added with stirring, and the organic layer was separated, washed with brine, dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography over silica using n-hexane/ethyl acetate (4:1) as the elution to give 4-methoxy-4-phenylpiperidine-1-carboxylic acid tert-butyl ester (6.63 g).

reactant | 4-hydroxy-4-phenylpiperidine-1-carboxylic acid tert-butyl ester | 7.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)O | C16H23NO3
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 32 ml | IC | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 71 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methoxy-4-phenylpiperidine-1-carboxylic acid tert-butyl ester | 6.63 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)OC | C17H25NO3
